US06468998B1
Bicyclo[2.2.2]octane-1-carbonyl chloride and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-bicyclo[2.2.2]octane-1-carboxamide.

reactant | Bicyclo[2.2.2]octane-1-carbonyl chloride | C12(CCC(CC1)CC2)C(=O)Cl | C9H13ClO
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-bicyclo[2.2.2]octane-1-carboxamide | FC1=CC=C(C=C1)CCN1C[C@H](CC1)NC(=O)C12CCC(CC1)CC2 | C21H29FN2O
